US05998436
Synthesis of 4-(t-butylamino)-2-chloro-5-fluoropyrimidine
To 20 ml of acetonitrile were added 6.4 g of 2,4-dichloro-5-fluoropyrimidine and 7.0 g of t-butylamine, then the mixture was stirred at 50° C. for 20 minutes. The solution was concentrated under reduced pressure, and separated by adding 40 ml of distilled water and 70 ml of chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The precipitated pale yellow crystals were dispersed in diisopropylether and collected by filtration to obtain 4.1 g of the title compound.

reactant | 2,4-dichloro-5-fluoropyrimidine | 6.4 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | t-butylamine | 7.0 g | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-(t-butylamino)-2-chloro-5-fluoropyrimidine | 4.1 g | C(C)(C)(C)NC1=NC(=NC=C1F)Cl | C8H11ClFN3
